US09120749B2
tert-Butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (347 mg, 1.12 mmol) was reacted with tert-butyl 2-(4-aminophenyl)propan-2-ylcarbamate (420 mg, 1.68 mmol) to afford the desired product (422 mg, 63%) as a yellow solid: ESI MS m/z 524 [C27H30BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.12 mmol, 347 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 2-(4-aminophenyl)propan-2-ylcarbamate | 1.68 mmol, 420 mg | NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C14H22N2O2
product | tert-Butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 422 mg, 63% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C27H30BrN3O3
